US04129655
The starting material is prepared as follows: The mixture of 10 g of 2-(2-tosyloxyethyl)-1,4-benzodioxan, 10 g of 4-piperidone hydrochloride, 20 g of anhydrous sodium carbonate and 160 ml of dimethylformamide is stirred vigorously at room temperature for 48 hours. It is filtered, the residue washed with a small amount of dimethylformamide and the filtrate evaporated. The residue is dissolved in ethyl acetate, the solution extracted with hydrochloric acid, the extract made alkaline with 50% aqueous sodium hydroxide while cooling and re-extracted with methylene chloride. The latter extract is dried and evaporated, to yield the 2-[2-(4-oxopiperidino)-ethyl]-1,4-benzodioxan, which solidifies on standing.

reactant | 2-(2-tosyloxyethyl)-1,4-benzodioxan | 10 g | S(=O)(=O)(C1=CC=C(C)C=C1)OCCC1COC2=C(O1)C=CC=C2 | C17H18O5S
reactant | 4-piperidone hydrochloride | 10 g | Cl.N1CCC(CC1)=O
reactant | sodium carbonate | 20 g | C([O-])([O-])=O.[Na+].[Na+]
solvent | dimethylformamide | 160 ml | CN(C=O)C | C3H7NO
product | 2-[2-(4-oxopiperidino)-ethyl]-1,4-benzodioxan | O=C1CCN(CC1)CCC1COC2=C(O1)C=CC=C2 | C15H19NO3
